US05221753
9.6 g (400 mmol) of magnesium turnings are covered with tetrahydrofuran, about 2 ml of bromomethane are added, and the mixture is warmed to reflux. 38.45 g (300 mmol) of 4-chlorotetrahydropyran, dissolved in 100 ml of tetrahydrofuran, are added dropwise. The mixture is subsequently stirred for a further 30 minutes and cooled to 10° C., 42.9 g (300 mmol) of ethyl 1-(dimethylamino)eth-1-ene-2-carboxylate are added dropwise, and the mixture is stirred for a further 12 hours. Customary work-up gives 31.4 g (60%) of ethyl 1-(4-tetrahydropyranyl)eth-1-ene-2-carboxylate of boiling point 120° to 140° C./10 mmHg.

reactant | magnesium | 400 mmol, 9.6 g | [Mg] | Mg
reactant | bromomethane | about 2 ml | BrC | CH3Br
reactant | 4-chlorotetrahydropyran | 300 mmol, 38.45 g | ClC1CCOCC1 | C5H9ClO
reactant | ethyl 1-(dimethylamino)eth-1-ene-2-carboxylate | 300 mmol, 42.9 g | CN(C=CC(=O)OCC)C | C7H13NO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 1-(4-tetrahydropyranyl)eth-1-ene-2-carboxylate | 31.4 g, 60% | O1CCC(CC1)C=CC(=O)OCC | C10H16O3
